US04066651
A solution of 1-(3,4-dichlorobenzyl)-6,7-difluoro-1,2-dihydro-4-methyl-2-oxoquinoline (5 g.) in benzene (15 ml.) was added with stirring at ambient temperature to a mixture of diethyl oxalate (2.3 g.), benzene (2 ml.) and a 6N-solution of potassium ethoxide in ethanol (6 ml.). The mixture was allowed to stand overnight at ambient temperature under dry nitrogen. The yellow solid was filtered off, washed with benzene (5 ml.) and dried by suction on the filter. The dried solid (5.7 g.) was mixed with 2.77 N-aqueous sodium hydroxide (21 ml.) at 0° C. and kept at 0° C. overnight. Ice (11.5 g.) and then 100 vol. hydrogen peroxide (4.04 ml.) were added to the mixture and it was again kept overnight at 0° C. A further quantity of 100 vol. hydrogen peroxide (1.7 ml.) was added and the mixture kept at 0° C. for 72 hours. The mixture was then treated with manganese dioxide (1 g.). When the effervescence had ceased the mixture was warmed to 50° C. and filtered. The filter cake was washed with warm 2.77 N-aqueous sodium hydroxide (20 ml.) and the total filtrate acidified with concentrated hydrochloric acid. The precipitate was collected and recrystallised first from a mixture (1/2 v/v) of ethyl acetate and cyclohexane, and then from ethanol to give 1-(3,4-dichlorobenzyl)-6,7-difluoro-1,2-dihydro-2-oxoquinol-4-ylacetic acid m.p. 185°-7° C. (dec.), in 10% yield.

reactant | 1-(3,4-dichlorobenzyl)-6,7-difluoro-1,2-dihydro-4-methyl-2-oxoquinoline | 5 g | ClC=1C=C(CN2C(C=C(C3=CC(=C(C=C23)F)F)C)=O)C=CC1Cl | C17H11Cl2F2NO
reactant | diethyl oxalate | 2.3 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | potassium ethoxide | [O-]CC.[K+]
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | benzene | 2 ml | C1=CC=CC=C1 | C6H6
product | 1-(3,4-dichlorobenzyl)-6,7-difluoro-1,2-dihydro-2-oxoquinol-4-ylacetic acid | 10% yield | ClC=1C=C(CN2C(C=C(C3=CC(=C(C=C23)F)F)CC(=O)O)=O)C=CC1Cl | C18H11Cl2F2NO3
